US08735410B2
DTAD (7.26 g, 31.5 mmol) dissolved in 50 ml of DCM was added over a period of 10 minutes to a stirred suspension of 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-ol (5.00 g, 15.7 mmol), triphenylphosphine (8.57 g, 62.6 mmol) and (2R,4S)—N-(tert-butoxycarbonyl)-4-hydroxypiperidine-2-carboxylic acid methyl ester (ex ACROS, 5.42 g, 20.9 mmol) in DCM (150 ml) at −15° C. (acetone/ice). The reaction mixture was allowed to warm to room temperature and stirred for 2 hours, concentrated to approximately 50 ml and purified directly by flash chromatography (silica gel, eluting with a gradient from 100% DCM to DCM/EtOAc (80/20) to DCM/EtOAc (50/50) to give 1-tert-butyl 2-methyl (2R,4R)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)piperidine-1,2-dicarboxylate (5.5 g, 81%) as a white foam; 1H NMR Spectrum: (DMSO d6) 1.47-1.53 (m, 11H), 1.86-1.91 (m, 1H), 2.25-2.36 (m, 1H), 2.95-3.13 (m, 1H), 3.70 (s, 3H), 3.95 (s, 3H), 3.98-4.04 (m, 1H), 4.45 (m, 1H), 4.86-4.94 (m, 1H), 7.31 (t, 1H), 7.51-7.64 (m, 3H), 7.80 (s, 1H), 8.39 (s, 1H), 9.54 (s, 1H); Mass Spectrum: (M+H)+ 561.1.

reactant | 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-ol | 15.7 mmol, 5.00 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O)OC)F | C15H11ClFN3O2
reactant | triphenylphosphine | 62.6 mmol, 8.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R,4S)—N-(tert-butoxycarbonyl)-4-hydroxypiperidine-2-carboxylic acid methyl ester | 20.9 mmol, 5.42 g | COC(=O)[C@@H]1N(CC[C@@H](C1)O)C(=O)OC(C)(C)C | C12H21NO5
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 2-methyl (2R,4R)-4-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}oxy)piperidine-1,2-dicarboxylate | 5.5 g, 81% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)O[C@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OC)OC)F | C27H30ClFN4O6
